US08106043B2
6-Nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine:
To a stirred solution of 2-(2-iodoethylthio)-5-nitroaniline (1.18 g, 3.64 mmol) in DMF (10 mL) was added potassium carbonate (1.006 g, 7.28 mmol). The resulting mixture was then stirred at 90° C. for 1 hour. The mixture was then cooled to room temperature and diluted with water (40 mL). The resulting red precipitate was collected by vacuum filtration, giving the title compound (625 mg, 87%). 1H NMR (DMSO-d6) δ 7.38 (s, 1H), 7.28 (d, J=8.4 Hz, 1H), 7.12 (d, J=8.7 Hz, 6.78 (brs, 1H), 3.56-3.49 (m, 2H), 3.08-3.03 (m, 2H); EI-MS (m/z, %): 196 (M+, 100), 181 (45), 122 (73).

reactant | 2-(2-iodoethylthio)-5-nitroaniline | 3.64 mmol, 1.18 g | ICCSC1=C(N)C=C(C=C1)[N+](=O)[O-] | C8H9IN2O2S
reactant | potassium carbonate | 7.28 mmol, 1.006 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 6-Nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 625 mg, 87% | [N+](=O)([O-])C1=CC2=C(SCCN2)C=C1 | C8H8N2O2S
